US04681879
11-{1-[3-(1,3-Dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate
To 50 ml dry DMF were added 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (5.0 g, 0.0186 mole), 1-(3-chlorophenyl)-1,3-dihydro-2H-benzimidazol-2-one (4.0 g 0.019 mole), milled K2CO3 (10 g, 0.07 mole) and KI (0.01 g).

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.0186 mole, 5.0 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 1-(3-chlorophenyl)-1,3-dihydro-2H-benzimidazol-2-one | 0.019 mole, 4.0 g | ClC=1C=C(C=CC1)N1C(NC2=C1C=CC=C2)=O | C13H9ClN2O
reactant | K2CO3 | 0.07 mole, 10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 11-{1-[3-(1,3-Dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate | C(C(=O)O)(=O)O.O=C1NC2=C(N1CCCN1CCC(CC1)C1OC3=C(CN4C1=CC=C4)C=CC=C3)C=CC=C2 | InChI=1S/C27H30N4O2.C2H2O4/c32-27-28-22-8-2-3-9-23(22)31(27)16-6-14-29-17-12-20(13-18-29)26-24-10-5-15-30(24)19-21-7-1-4-11-25(21)33-26;3-1(4)2(5)6/h1-5,7-11,15,20,26H,6,12-14,16-19H2,(H,28,32);(H,3,4)(H,5,6)
